US07592453B2
N-((1R,2S)-2-{[(3aS,4S,9bS)-3a-methyl-4-(3-thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
To a mixture of (3aS,4R*,9bR*)-3a-methyl-4-(3-thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline (750 mg, 2.77 mmol), (1S,2R)-2-(benzoylamino)cyclohexanecarboxylic acid (685 mg, 2.77 mmol), triethylamine (606 mg, 6.10 mmol), acetonitrile (14 ml) and tetrahydrofuran (14 ml) was added DEPC (500 mg, 3.05 mmol) under ice-cooling, and the mixture was stirred for 10 min. The mixture was allowed to return to room temperature and stirred for 12 hrs. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was dried (over anhydrous Na2SO4), and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography using silica gel (100 g), and eluted with hexane-ethyl acetate (4:1-1:1, v/v) to give the title compound (3aR,4R,9bR) (110 mg, 8%) as an amorphous form from the first eluted fraction.

reactant | (3aS,4R*,9bR*)-3a-methyl-4-(3-thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline | 2.77 mmol, 750 mg | C[C@@]12[C@@H](NC=3C=CC=CC3[C@@H]1NCC2)C2=CSC=C2 | C16H18N2S
reactant | (1S,2R)-2-(benzoylamino)cyclohexanecarboxylic acid | 2.77 mmol, 685 mg | C(C1=CC=CC=C1)(=O)N[C@H]1[C@H](CCCC1)C(=O)O | C14H17NO3
reactant | triethylamine | 6.10 mmol, 606 mg | C(C)N(CC)CC | C6H15N
reactant | DEPC | 3.05 mmol, 500 mg | CCOC(=O)OC(=O)OCC | C6H10O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
product | N-((1R,2S)-2-{[(3aS,4S,9bS)-3a-methyl-4-(3-thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 110 mg, 8% | C[C@]12[C@H](NC=3C=CC=CC3[C@H]1N(CC2)C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O)C2=CSC=C2 | C30H33N3O2S
